US06207693B1
A mixture of N-[2-(4-aminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide (150 mg), 37% formaldehyde solution (43.7 mg) and sodium cyanoborohydride (18.3 mg) in methanol (10 ml) was stirred at ambient temperature for 6 hours. The mixture was diluted with chloroform and the solution was washed with saturated aqueous sodium hydrogen carbonate and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo. The crude product was purified by silica gel column (5% methanol in chloroform) to give N-[2-(4-dimethylaminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide (142 mg).

reactant | N-[2-(4-aminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide | 150 mg | NCCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)C)OC)=O)C | C29H33N5O4
reactant | formaldehyde | 43.7 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 18.3 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(4-dimethylaminobut-1-yloxy)-4-methylphenyl]-3-methoxy-N-methyl-4-(2-methyl-1H-benzimidazol-4-yl)carbonylaminobenzamide | 142 mg | CN(CCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)C)OC)=O)C)C | C31H37N5O4
